### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/TopologicallyNilpotent): top nilpotent in linear topologies

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
In a monoid with zero and a topology, an element is topologically nilpotent if its powers converge to zero.

In a ring with a linear topology, sum and product of (commuting) topologically nilpotent elements are topologically nilpotent.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/TwoSidedIdeal/Commute.lean [hunk 1]
```diff
@@ -0,0 +1,38 @@
...
+  apply mul_mem_right
+  by_cases h : m ≤ c
+  · exact I.mul_mem_right _ _ (I.pow_mem_of_pow_mem ha h)
+  · refine I.mul_mem_left _ _ (I.pow_mem_of_pow_mem hb ?_)
+    omega
+
+theorem add_pow_add_pred_mem_of_pow_mem {m n : ℕ}
+    (ha : a ^ m ∈ I) (hb : b ^ n ∈ I) (h : Commute a b) :
+    (a + b) ^ (m + n - 1) ∈ I :=
+  I.add_pow_mem_of_pow_mem_of_le ha hb (by rw [← Nat.sub_le_iff_le_add]) h
```
Comment (ADedecker) [inline Mathlib/RingTheory/TwoSidedIdeal/Commute.lean:34]: It sounds to me that all of these should be true for left ideals as well thanks to the commutation hypotheses, right? I recognize it's a bit unsatisfying to be able to state them for left ideals but not right ideals, but I think it would still be better not to restrict to two-sided ideals.

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+  [MonoidWithZero S] [TopologicalSpace S]
+
+/-- The image of a topologically nilpotent element under a continuous morphism
+  is topologically nilpotent -/
+theorem map {F : Type*} [FunLike F R S] [MonoidWithZeroHomClass F R S]
+    {φ : F} (hφ : Continuous φ) {a : R} (ha : IsTopologicallyNilpotent a) :
+    IsTopologicallyNilpotent (φ a) := by
+  unfold IsTopologicallyNilpotent at ha ⊢
+  simp_rw [← map_pow]
+  exact (map_zero φ ▸  hφ.tendsto 0).comp ha
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:58]:
```suggestion
  exact (map_zero φ ▸ hφ.tendsto 0).comp ha
```

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+  then `a + b` is topologically nilpotent. -/
+theorem add_of_commute [IsLinearTopology R R] [IsLinearTopology Rᵐᵒᵖ R]
+    {a b : R} (ha : IsTopologicallyNilpotent a) (hb : IsTopologicallyNilpotent b)
+    (h : Commute a b) :
+    IsTopologicallyNilpotent (a + b) := fun v ↦ by
+  rw [IsLinearTopology.hasBasis_twoSidedIdeal.mem_iff]
+  rintro ⟨I, I_mem_nhds, I_subset⟩
+  specialize ha I_mem_nhds
+  specialize hb I_mem_nhds
+  simp only [mem_map, mem_atTop_sets, ge_iff_le, Set.mem_preimage, SetLike.mem_coe] at ha hb ⊢
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:113]: I think you should be able to remove some of the boilerplate by using [Filter.HasBasis.tendsto_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Bases.html#Filter.HasBasis.tendsto_iff), applied to [IsLinearTopology.hasBasis_twoSidedIdeal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/LinearTopology.html#IsLinearTopology.hasBasis_twoSidedIdeal) and [Filter.atTop_basis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/AtTopBot.html#Filter.atTop_basis).

File: Mathlib/RingTheory/TwoSidedIdeal/Commute.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TwoSidedIdeal/Commute.lean:34]: Yeah, it seems you're right.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TwoSidedIdeal/Commute.lean:34]: On the other hand, having this for ideals requires to generalize (it is often trivial) lemmas from `CommSemiring` to `Semiring` in much earlier files of the library. So I believe I'll delete the noncommutative case.

Comment (ADedecker) [reply Mathlib/RingTheory/TwoSidedIdeal/Commute.lean:34]: That shouldn't require that much generalizing, right? To be clear I think that would fit in this PR.

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:122]: I did not understand what you wanted me to do, I added a lemma and simplified the proof.

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+  intro v hv
+  rw [(IsLinearTopology.hasBasis_submodule Rᵐᵒᵖ).mem_iff] at hv
+  rcases hv with ⟨I, I_mem_nhds, I_subset⟩
+  specialize ha I_mem_nhds
+  simp only [mem_map, mem_atTop_sets, ge_iff_le, Set.mem_preimage, SetLike.mem_coe] at ha ⊢
+  rcases ha with ⟨n, ha⟩
+  use n
+  intro m hm
+  rw [hab.mul_pow]
+  exact I_subset (I.smul_mem _ (ha m hm))
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:94]: Yep.

**Comment by AntoineChambert-Loir** [comment]
ok, i add it back

Le 23 janvier 2025 12:04:44 GMT+01:00, Anatole Dedecker ***@***.***> a écrit :

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/TopologicallyNilpotent.lean]: Well it looked wrong to my monospace brain, and then I used the fact that GitHub puts a very subtle dot to allow counting spaces. I thought we had a bot for detecting those but apparently not :shrug:

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 5]
```diff
@@ -0,0 +1,134 @@
...
+  simp_rw [IsTopologicallyNilpotent, hab.mul_pow]
+  exact IsLinearTopology.tendsto_mul_zero_of_left _ _ ha
+
+/-- If `a` and `b` commute and `b` is topologically nilpotent,
+  then `a * b` is topologically nilpotent. -/
+ theorem mul_left_of_commute [IsLinearTopology R R] {a b : R}
+    (hb : IsTopologicallyNilpotent b) (hab : Commute a b) :
+    IsTopologicallyNilpotent (a * b) := by
+  simp only [IsTopologicallyNilpotent]
+  simp_rw [hab.mul_pow]
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:95]:
```suggestion
  simp_rw [IsTopologicallyNilpotent, hab.mul_pow]
```
For consistency with the other direction.

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 6]
```diff
@@ -0,0 +1,134 @@
...
+  tendsto_atTop_of_eventually_const (i₀ := 1)
+    (fun _ hi => by rw [zero_pow (Nat.ne_zero_iff_zero_lt.mpr hi)])
+
+theorem exists_pow_mem_of_mem_nhds {a : R} (ha : IsTopologicallyNilpotent a)
+    {v : Set R} (hv : v ∈ 𝓝 0) :
+    ∃ n, a ^ n ∈ v := by
+  specialize ha hv
+  simp only [mem_map, mem_atTop_sets, ge_iff_le, Set.mem_preimage] at ha
+  obtain ⟨n, hn⟩ := ha
+  exact ⟨n, hn n (le_refl n)⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:73]:
```suggestion
    ∃ n, a ^ n ∈ v :=
  (ha.eventually_mem hv).exists
```

**Review by ADedecker — COMMENTED** [review]
Last nitpicks!

**Comment by ADedecker** [comment]
Thanks! Let's ask for a quick second look.

maintainer merge

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 7]
```diff
@@ -0,0 +1,130 @@
...
+-/
+
+open Filter
+
+open scoped Topology
+
+/-- An element is topologically nilpotent if its powers converge to `0`. -/
+def IsTopologicallyNilpotent
+    {R : Type*} [MonoidWithZero R] [TopologicalSpace R] (a : R) : Prop :=
+  Tendsto (fun n : ℕ => a ^ n) atTop (𝓝 0)
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:44]: If you want, you can write
```suggestion
  Tendsto (a ^ ·) atTop (𝓝 0)
```
But no strong opinion from me either way.

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 8]
```diff
@@ -0,0 +1,130 @@
...
+
+/-- If `a` is topologically nilpotent, then `a * b` is topologically nilpotent. -/
+theorem mul_right {a : R} (ha : IsTopologicallyNilpotent a) (b : R) :
+    IsTopologicallyNilpotent (a * b) :=
+  ha.mul_right_of_commute (Commute.all _ _)
+
+/-- If `b` is topologically nilpotent, then `a * b` is topologically nilpotent. -/
+ theorem mul_left (a : R) {b : R} (hb : IsTopologicallyNilpotent b) :
+    IsTopologicallyNilpotent (a * b) :=
+  hb.mul_left_of_commute (Commute.all a b)
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:121]: For consistency with the lemma above and below it.
```suggestion
  hb.mul_left_of_commute (Commute.all _ _)
```
Note that you can also do
```suggestion
  hb.mul_left_of_commute (Commute.all ..)
```
(and similarly for the other two).

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by AntoineChambert-Loir** [comment]
bors r+

Le 24 janvier 2025 06:57:14 GMT+01:00, "mathlib-bors[bot]" ***@***.***> a écrit :

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 9]
```diff
@@ -0,0 +1,130 @@
...
+
+/-- If `a` and `b` are topologically nilpotent, then `a + b` is topologically nilpotent. -/
+theorem add {a b : R} (ha : IsTopologicallyNilpotent a) (hb : IsTopologicallyNilpotent b) :
+    IsTopologicallyNilpotent (a + b) :=
+  ha.add_of_commute hb (Commute.all _ _)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:126]:
```suggestion
  ha.add_of_commute hb (Commute.all ..)
```

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean [hunk 10]
```diff
@@ -0,0 +1,130 @@
...
+end Ring
+
+section CommRing
+
+variable {R : Type*} [TopologicalSpace R] [CommRing R] [IsLinearTopology R R]
+
+/-- If `a` is topologically nilpotent, then `a * b` is topologically nilpotent. -/
+theorem mul_right {a : R} (ha : IsTopologicallyNilpotent a) (b : R) :
+    IsTopologicallyNilpotent (a * b) :=
+  ha.mul_right_of_commute (Commute.all _ _)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:116]:
```suggestion
  ha.mul_right_of_commute (Commute.all ..)
```

File: Mathlib/Topology/Algebra/TopologicallyNilpotent.lean (hunk 9 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/TopologicallyNilpotent.lean:126]: For some reason it seems this one did not get included

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 11]
```diff
@@ -69,20 +94,13 @@ variable [CommSemiring α] (I : Ideal α)
...
-  · refine I.mul_mem_left _ (I.pow_mem_of_pow_mem hb ?_)
-    omega
+    (a + b) ^ k ∈ I :=
+  I.add_pow_mem_of_pow_mem_of_le_of_commute ha hb hk (Commute.all _ _)
 
 theorem add_pow_add_pred_mem_of_pow_mem  {m n : ℕ}
     (ha : a ^ m ∈ I) (hb : b ^ n ∈ I) :
     (a + b) ^ (m + n - 1) ∈ I :=
-  I.add_pow_mem_of_pow_mem_of_le ha hb <| by rw [← Nat.sub_le_iff_le_add]
+  I.add_pow_add_pred_mem_of_pow_mem_of_commute ha hb (Commute.all _ _)
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Ideal/Basic.lean:103]:
```suggestion
  I.add_pow_add_pred_mem_of_pow_mem_of_commute ha hb (Commute.all ..)
```

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 12]
```diff
@@ -69,20 +94,13 @@ variable [CommSemiring α] (I : Ideal α)
...
-  rw [add_pow]
-  apply I.sum_mem
-  intro c _
-  apply mul_mem_right
-  by_cases h : m ≤ c
-  · exact I.mul_mem_right _ (I.pow_mem_of_pow_mem ha h)
-  · refine I.mul_mem_left _ (I.pow_mem_of_pow_mem hb ?_)
-    omega
+    (a + b) ^ k ∈ I :=
+  I.add_pow_mem_of_pow_mem_of_le_of_commute ha hb hk (Commute.all _ _)
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Ideal/Basic.lean:98]:
```suggestion
  I.add_pow_mem_of_pow_mem_of_le_of_commute ha hb hk (Commute.all ..)
```
